US07279576B2
To a solution of N-(3-amino-4-methyl-phenyl) acetamide (5 g, 41 mmol) in DMF (5 ml) was added 4-(2-chloro-pyrimidin-4-yl)-morpholine (8.1 g, 40 mmol) and KI (0.5 g, 3 mmol), which was stirred at 100° C. overnight, cooled to 10° C. and added to H2O (100 mL). The resulting mixture was extracted with CH2Cl2 (2×100 mL), the combined organic layers dried (Na2SO4) and concentrated in vacuo. The residue was dissolved in conc. HCl (10 mL), stirred at 80° C. for 2 h and concentrated in vacuo to yield 6-methyl-N1-(4-morpholinopyrimidin-2-yl)benzene-1,3-diamine hydrochloride (5.0 g, 65%). 1H NMR (DMSO-d6): 8.00 (d, J=7.2 Hz, 1H), 7.57 (brs, 1H), 7.36 (d, J=8.4 Hz, 1H), 7.14 (dd, J=8.4, 1.6 Hz, 1H), 6.65 (d, J=7.2 Hz, 1H), 3.69 (s, 4H), 3.66 (s, 4H), 2.25 (s, 3H). MS (ESI) m/e: 286 (M++1).

reactant | N-(3-amino-4-methyl-phenyl) acetamide | 41 mmol, 5 g | NC=1C=C(C=CC1C)NC(C)=O | C9H12N2O
reactant | 4-(2-chloro-pyrimidin-4-yl)-morpholine | 40 mmol, 8.1 g | ClC1=NC=CC(=N1)N1CCOCC1 | C8H10ClN3O
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-methyl-N1-(4-morpholinopyrimidin-2-yl)benzene-1,3-diamine hydrochloride | 5.0 g, 65% | Cl.CC1=CC=C(C=C1NC1=NC=CC(=N1)N1CCOCC1)N | InChI=1S/C15H19N5O.ClH/c1-11-2-3-12(16)10-13(11)18-15-17-5-4-14(19-15)20-6-8-21-9-7-20;/h2-5,10H,6-9,16H2,1H3,(H,17,18,19);1H
